US04061647
3-Ethyl-2-ethylimino-4-(2,4-dichloro-5-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide
was obtained in a manner analogous to that described in Example 1 d) from 3.5 g of 2-bromo-2',4'-dichloro-5'-sulfamoyl-acetophenone and 1.3 g of 1,3-diethyl-thiourea. M.p. 202° C (decomposition).

reactant | 2-bromo-2',4'-dichloro-5'-sulfamoyl-acetophenone | 3.5 g | BrCC(=O)C1=C(C=C(C(=C1)S(N)(=O)=O)Cl)Cl | C8H6BrCl2NO3S
reactant | 1,3-diethyl-thiourea | 1.3 g | C(C)NC(=S)NCC | C5H12N2S
product | 3-Ethyl-2-ethylimino-4-(2,4-dichloro-5-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide | Br.C(C)N1C(SCC1(O)C1=C(C=C(C(=C1)S(N)(=O)=O)Cl)Cl)=NCC | InChI=1S/C13H17Cl2N3O3S2.BrH/c1-3-17-12-18(4-2)13(19,7-22-12)8-5-11(23(16,20)21)10(15)6-9(8)14;/h5-6,19H,3-4,7H2,1-2H3,(H2,16,20,21);1H
